US05015644
Preparation of N-(2,6-dimethylphenyl)-N'-(1-phenylcyclopentyl)urea
To a solution of 1-phenylcyclopentyl amine (1.0 gm, 0.006 mole) in 30 ml of ethylacetate, 2,6-dimethylphenyl isocyanate (0.91 g; 0.006 mole) is added and the reaction mixture is stirred at room temperature for 20 hours. Volatiles are removed under reduced pressure and the residue is crystallized from ethylacetate-hexane yielding 1.65 g of N-(2,6-dimethylphenyl-N'-(1-phenylcyclopentyl) urea having a melting point of 227°-229° C.

reactant | 1-phenylcyclopentyl amine | 0.006 mole, 1.0 gm | C1(=CC=CC=C1)C1(CCCC1)N | C11H15N
reactant | 2,6-dimethylphenyl isocyanate | 0.006 mole, 0.91 g | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
solvent | ethylacetate | 30 ml | C(C)OC(C)=O | C4H8O2
product | N-(2,6-dimethylphenyl)-N'-(1-phenylcyclopentyl)urea | CC1=C(C(=CC=C1)C)NC(=O)NC1(CCCC1)C1=CC=CC=C1 | C20H24N2O
